US04549028
The same reaction procedure as in Example 2 was carried out using 6.72 kg of sodium bisulfite addition salt of phenylacetaldehyde, 1.76 kg of sodium cyanide, 3.46 kg of ammonium carbonate, 22 l of aqueous ammonia and 19 l of water to give 5.02 kg of phenylalanine crystals. The phenylalanine content of the thus obtained crystals was 95%. (The yield of phenylalanine calculated based on the amount of a sodium bisulfite addition salt of phenylacetaldehyde; 96.3%).

reactant | sodium bisulfite | 6.72 kg | S([O-])(O)=O.[Na+]
reactant | phenylacetaldehyde | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium cyanide | 1.76 kg | [C-]#N.[Na+]
reactant | ammonium carbonate | 3.46 kg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ammonia | 22 l | N | H3N
solvent | water | 19 l | O | H2O
product | phenylalanine | 5.02 kg | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
